US08563541B2
Step 1: 3,5-dichlorophenyl ethyl sulfide
A solution of 3,5-dichlorobenzenethiol (1.50 g, 8.4 mmol), iodoethane (1.34 mL, 16.8 mmol), potassium carbonate (1.74 g, 12.6 mmol) and methylene chloride (10 mL) was stirred at 25° C. for 30 minutes. The reaction was diluted with water and extracted with ethyl acetate three times, dried over sodium sulfate, filtered and concentrated. The residue was purified by chromatography on silica gel to give the desired product (1.69 g, 97%). LC/MS: 207 (M+H)+.

reactant | 3,5-dichlorobenzenethiol | 8.4 mmol, 1.50 g | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
reactant | iodoethane | 16.8 mmol, 1.34 mL | ICC | C2H5I
reactant | potassium carbonate | 12.6 mmol, 1.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3,5-dichlorophenyl ethyl sulfide | 1.69 g, 97% | C(C)SC1=CC(=CC(=C1)Cl)Cl | C8H8Cl2S
